US04692448
1,1'-(Dithiodi-2,1-ethanediyl)bis[4-(4-methylbenzyl)piperazine]
A solution of bis(2-chloroethyl)disulfide (2.9 g) in dimethylsulfoxide (5 ml) is added dropwise to a warmed mixture of (4-methylbenzyl)piperazine (5.7 g), potassium hydroxide (5.0 g), and dimethylsulfoxide (55 ml). The resulting mixture is stirred an additional 4 hours after which it is poured over ice/water and the product extracted with methylene chloride, dried and concentrated. The resulting oil (6.5 g) is purified on a silica gel column (methylene chloride:methanol, 95:5), and the salt precipitated with ethereal hydrochloric acid to provide, after recrystallization from ethanol/water, 1,1'-(dithiodi-2,1-ethanediyl)bis[4-(4-methylbenzyl)piperazine] tetrahydrochloride as a white crystalline solid, m.p. 280°-282° C.

reactant | bis(2-chloroethyl)disulfide | 2.9 g | ClCCSSCCCl | C4H8Cl2S2
reactant | (4-methylbenzyl)piperazine | 5.7 g | CC1=CC=C(CN2CCNCC2)C=C1 | C12H18N2
reactant | potassium hydroxide | 5.0 g | [OH-].[K+]
solvent | dimethylsulfoxide | 5 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 55 ml | CS(=O)C | C2H6OS
product | 1,1'-(Dithiodi-2,1-ethanediyl)bis[4-(4-methylbenzyl)piperazine] | C(CSSCCN1CCN(CC1)CC1=CC=C(C=C1)C)N1CCN(CC1)CC1=CC=C(C=C1)C | C28H42N4S2
